US07132425B2
A solution of N-[5-(1-tert-butoxyimino-ethyl)-pyrazin-2-yl]-3-cyclopentyl-2(R)-(4-methanesulfonyl-phenyl)-propionamide (342.6 mg, 0.704 mmol) in methylene chloride (1.4 mL) was cooled to 0° C. and then was treated with a 1.0M solution of titanium tetrachloride in methylene chloride (2.10 mL, 2.10 mmol). The resulting reaction solution was stirred at 0° C. for 2 h and then was stirred at 25° C. for 1 h 50 min. The reaction solution was concentrated in vacuo and then partitioned between ethyl acetate (210 mL) and water (150 mL). The organic layer was washed with a saturated aqueous sodium chloride solution (150 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 3/2 ethyl acetate/hexanes) afforded the 3-cyclopentyl-N-[5-(1-hydroxyimino-ethyl)-pyrazin-2-yl]-2(R)-(4-methanesulfonyl-phenyl)-propionamide (276.3 mg, 91%) as a white foam: mp 118.8–122.4° C. (foam to gel); (ES)+-HRMS m/e calcd for C21H26N4O4S (M+H)+ 431.1748, found 431.1752.

reactant | N-[5-(1-tert-butoxyimino-ethyl)-pyrazin-2-yl]-3-cyclopentyl-2(R)-(4-methanesulfonyl-phenyl)-propionamide | 0.704 mmol, 342.6 mg | C(C)(C)(C)ON=C(C)C=1N=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C25H34N4O4S
solvent | methylene chloride | 1.4 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 2.10 mmol, 2.10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-[5-(1-hydroxyimino-ethyl)-pyrazin-2-yl]-2(R)-(4-methanesulfonyl-phenyl)-propionamide | 276.3 mg, 91% | C1(CCCC1)C[C@@H](C(=O)NC1=NC=C(N=C1)C(C)=NO)C1=CC=C(C=C1)S(=O)(=O)C | C21H26N4O4S
